US05409928
(3) Preparation of 2-(4-bromo-3-methylbenzyloxy)tetrahydropyran
4-bromo-3-methylbenzyl alcohol (2 g, 0.01 mol) was dissolved in methylene chloride (10 ml). Under ice-cooling, to the obtained solution was added 3,4-dihydropyran (1 ml, 0.011 mol) and 10-camphorsulfonic acid (120 mg, 0.5 millimol), and the mixture was stirred at room temperature for 1.5 hours. After diluting with methylene chloride, the mixture was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated aqueous sodium chloride solution. After drying over anhydrous sodium sulfate, the solvent was distilled away, and the residue was separated and purified by using a silica-gel column chromatography (ethyl acetate:n-hexane=1:3) to give the title compound (2.8 g, 0.01 mol).

reactant | 4-bromo-3-methylbenzyl alcohol | 0.01 mol, 2 g | BrC1=C(C=C(CO)C=C1)C | C8H9BrO
reactant | 3,4-dihydropyran | 0.011 mol, 1 ml | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 10-camphorsulfonic acid | 0.5 millimol, 120 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 2-(4-bromo-3-methylbenzyloxy)tetrahydropyran | 0.01 mol, 2.8 g | BrC1=C(C=C(COC2OCCCC2)C=C1)C | C13H17BrO2
